US07101903B2
[5-(Benzyloxy)-1H-indol-2-yl]methanol
The title compound was prepared from ethyl 5-(benzyloxy)-1H-indole-2-carboxylate and lithium aluminum hydride according to the procedure described in step 3 of Example 1. The product was obtained as a white solid, mp: 106–107° C. Mass spectrum (ESI, [M+H]+) m/z 254. 1H NMR (400 MHz, DMSO-d6) δ 10.80 (s, 1H), 7.45 (d, 2H, J=7.33 Hz), 7.37 (t, 2H, J=7.49 Hz), 7.30 (d, 1H, J=7.18 Hz), 7.20 (d, 1H, J=8.71 Hz), 7.04 (s, 1H), 6.74 (dd, 1H, J=8.70 and 1.46 Hz), 6.16 (s, 1H), 5.16 (t, 1H, J=5.49 Hz), 5.01 (s, 2H), 4.55 ppm (d, 2H, J=5.50 Hz).

reactant | ethyl 5-(benzyloxy)-1H-indole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [5-(Benzyloxy)-1H-indol-2-yl]methanol | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)CO | C16H15NO2
